US07691882B2
Benzyl-(4-(2-nitro-ethyl)-phenyl)-amine
To an acetic acid (5.8 mL) and dimethyl sulfoxide (100 mL) solution of benzyl-(4-((E)-2-nitro-vinyl)-phenyl)-amine (5.82 g, 22.9 mmol) described in Manufacturing Example 68-1-2 was added sodium borohydride (1.39 g, 36.6 mmol) at room temperature while cooling appropriately. This mixture was stirred for 1 hour at room temperature. The mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-2:1) to obtain the title compound (2.79 g, 48%).

reactant | acetic acid | 5.8 mL | C(C)(=O)O | C2H4O2
reactant | benzyl-(4-((E)-2-nitro-vinyl)-phenyl)-amine | 22.9 mmol, 5.82 g | C(C1=CC=CC=C1)NC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O2
reactant | sodium borohydride | 36.6 mmol, 1.39 g | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | Benzyl-(4-(2-nitro-ethyl)-phenyl)-amine | 2.79 g, 48% | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H16N2O2
